US04268676
1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-(3-pyridylamino)-azirino[2',3':3,4]pyrrolo-[1,2-a]indole-4,7-dione carbamate.
To a solution of 60 mg mitomycin A (0.17 mmol) in 5 ml of anhydrous methanol was added 61 mg of 3-aminopyridine (1.2 mmol) with stirring. The progress of the reaction was checked periodically by TLC and the reaction appeared to be complete after 44 hours. The solvent was removed by evaporation under reduced pressure and the residue was chromatographed using silica-gel as adsorbent. The fraction obtained by eluting the column with a mixture of ethyl acetate and acetone (10:1 by volume) was evaporated to dryness. Recrystallization from chloroform gave 38 mg (56% yield) of green solid having a melting point of 78°-80° C. and providing the following analysis:

reactant | mitomycin A | 0.17 mmol, 60 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
reactant | 3-aminopyridine | 1.2 mmol, 61 mg | NC=1C=NC=CC1 | C5H6N2
solvent | methanol | 5 ml | CO | CH4O
product | 1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-(3-pyridylamino)-azirino[2',3':3,4]pyrrolo-[1,2-a]indole-4,7-dione carbamate | 38 mg, 56% yield | C(N)(O)=O.OCC1C2(N(C=3C(C(=C(C(C13)=O)NC=1C=NC=CC1)C)=O)CC1C2N1)OC | InChI=1S/C19H20N4O4.CH3NO2/c1-9-14(21-10-4-3-5-20-6-10)17(26)13-11(8-24)19(27-2)18-12(22-18)7-23(19)15(13)16(9)25;2-1(3)4/h3-6,11-12,18,21-22,24H,7-8H2,1-2H3;2H2,(H,3,4)
